US09284306B2
1E. (S)-3-amino-5-(methylthiomethyl)oxazolidin-2-one hydrochloride
To a solution of (S)-tert-butyl 5-(methylthiomethyl)-2-oxooxazolidin-3-ylcarbamate (374 mg, 1.426 mmol) in THF (2 mL), 4M HCl in dioxane (1.25 mL, 4.99 mmol) was added. The reaction was stirred at r.t. for 4 days and a white solid precipitated. The obtained product was filtered and triturated with hot diisopropyl ether affording the title compound (240 mg, 1.208 mmol). Yield=85%.

reactant | (S)-tert-butyl 5-(methylthiomethyl)-2-oxooxazolidin-3-ylcarbamate | 1.426 mmol, 374 mg | CSC[C@@H]1CN(C(O1)=O)NC(OC(C)(C)C)=O | C10H18N2O4S
reactant | dioxane | 4.99 mmol, 1.25 mL | O1CCOCC1 | C4H8O2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
reactant | HCl | 4M | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (S)-3-amino-5-(methylthiomethyl)oxazolidin-2-one hydrochloride | 1.208 mmol, 240 mg, Yield=85% | Cl.NN1C(O[C@@H](C1)CSC)=O | InChI=1S/C5H10N2O2S.ClH/c1-10-3-4-2-7(6)5(8)9-4;/h4H,2-3,6H2,1H3;1H/t4-;/m0./s1
